US04551460
A solution of 12.0 g of 4-(3-pyridinyl)-2-butanone hydrochloride, 3.38 g of sodium cyanoborohydride, and 42.78 g of ammonium acetate in 200 ml of methanol was stirred at room temperature for 2.5 days, acidified with dilute hydrochloric acid, and concentrated. The residue was dissolved in aqueous potassium carbonate solution and was extracted with dichloromethane. The residue obtained after evaporation of the dichloromethane was distilled to give 6.5 g (80%) of α-methyl-3-pyridinepropanamine, bp 126°-148° C./0.3 mm. The picrate was crystallized from methanol-ether; mp 146°-148° C.

reactant | 4-(3-pyridinyl)-2-butanone hydrochloride | 12.0 g | Cl.N1=CC(=CC=C1)CCC(C)=O
reactant | sodium cyanoborohydride | 3.38 g | C(#N)[BH3-].[Na+]
reactant | ammonium acetate | 42.78 g | C(C)(=O)[O-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | α-methyl-3-pyridinepropanamine | 6.5 g, 80% | CC(CCC=1C=NC=CC1)N | C9H14N2
